US07943636B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.06 g, 21.2 mmol) was added to a solution of 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxylic acid (4.88 g, 19.3 mmol) and 1-hydroxybenzotriazole (2.87 g, 21.2 mmol) in N,N-dimethylformamide (DMF) (24.4 mL) at room temperature. The mixture was stirred for two hours, cooled in an ice bath, and treated with concentrated ammonium hydroxide (3.9 mL). A precipitate formed, and the mixture was stirred 30 minutes at 0° C. Water (100 mL) was added, and the mixture was stirred for an additional ten minutes. The precipitate was isolated by filtration, washed with water, and dried on the vacuum filter funnel to provide 4.05 g of 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxamide as white crystals.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 21.2 mmol, 4.06 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxylic acid | 19.3 mmol, 4.88 g | C(CC)N1N=C(C=C1CC1CCOCC1)C(=O)O | C13H20N2O3
reactant | 1-hydroxybenzotriazole | 21.2 mmol, 2.87 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium hydroxide | 3.9 mL | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 24.4 mL | CN(C=O)C | C3H7NO
solvent | Water | 100 mL | O | H2O
product | 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxamide | 4.05 g | C(CC)N1N=C(C=C1CC1CCOCC1)C(=O)N | C13H21N3O2
